US06642394B2
A glass flask equipped with a stirrer, a dropping funnel, a thermometer, a Liebig condenser and a receiver was charged with 8.61 g (0.1 mol) of methacrylic acid, 7.66 g (0.075 mol) of acetic anhydride, 0.037 g (3.8×10−4 mol) of phosphoric acid and 0.009 g of 4-hydroxy-2,2,6,6-tetramethyl-piperdine-N-oxyl (hereinafter referred to as HO-TEMPO), and the mixture was heated and stirred at 60° C. for 20 hours. After cooling the reaction mixture, 75 ml of n-hexane was added, and the mixture was washed with 75 ml of water twice, neutralized and washed with 75 ml of saturated aqueous solution of sodium hydrogencarbonate (pH=7.81) 5 times, washed with 75 ml of water once, and the hexane layer of the mixture was concentrated to obtain 1.67 g of methacrylic anhydride of 97% purity. The isolation yield of methacrylic anhydride was 21% on the basis of methacrylic acid as the material.

reactant | methacrylic acid | 0.1 mol, 8.61 g | C(C(=C)C)(=O)O | C4H6O2
reactant | acetic anhydride | 0.075 mol, 7.66 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HO-TEMPO | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
catalyst | phosphoric acid | 3.8×10−4 mol, 0.037 g | P(O)(O)(O)=O | H3O4P
catalyst | 4-hydroxy-2,2,6,6-tetramethyl-piperdine-N-oxyl | 0.009 g | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
solvent | n-hexane | 75 ml | CCCCCC | C6H14
product | methacrylic anhydride | 1.67 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
